US08283353B2
4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (4 g) and N-[4-(prop-2-en-1-yloxy)cyclohexyl]-4H-1,2,4-triazol-3-amine (1.3 g) was stirred at 250° C. for 20 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.7 g, 24%).

reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 4 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | N-[4-(prop-2-en-1-yloxy)cyclohexyl]-4H-1,2,4-triazol-3-amine | 1.3 g | C(C=C)OC1CCC(CC1)NC1=NN=CN1 | C11H18N4O
product | 4′-({5-oxo-4-[4-(prop-2-en-1-yloxy)cyclohexyl]-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.7 g, 24% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)OCC=C | C31H33N5O2
